US09061067B2
A mixture of 4-(4′-cyanobiphenyl-4-yloxy)butyric acid (2.70 g, 9.60 mmol), EtOH (10 ml), THF (15 ml), K2CO3 (3.35 g, 24.2 mmol), and hydroxylamine hydrochloride (1.50 g, 21.6 mmol) was stirred at room temperature for 3.5 d, and then at 80° C. for 24 h. Water (100 ml) and 1N HCl (50 ml) were added, and the product was isolated by filtration and washed with water. The solid was suspended in MeCN (70 ml), heated to reflux, kept at room temp overnight, filtrated off, and dried under reduced pressure to yield 3.23 g (100%) of 4-(4′-(N-hydroxycarbamimidoyl)biphenyl-4-yloxy)butyric acid.

reactant | 4-(4′-cyanobiphenyl-4-yloxy)butyric acid | 9.60 mmol, 2.70 g | C(#N)C1=CC=C(C=C1)C1=CC=C(C=C1)OCCCC(=O)O | C17H15NO3
reactant | K2CO3 | 24.2 mmol, 3.35 g | C(=O)([O-])[O-].[K+].[K+]
reactant | hydroxylamine hydrochloride | 21.6 mmol, 1.50 g | Cl.NO
reactant | HCl | 1N, 50 ml | Cl | ClH
solvent | Water | 100 ml | O | H2O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | EtOH | 10 ml | CCO | C2H6O
product | 4-(4′-(N-hydroxycarbamimidoyl)biphenyl-4-yloxy)butyric acid | 3.23 g, 100% | ONC(=N)C1=CC=C(C=C1)C1=CC=C(C=C1)OCCCC(=O)O | C17H18N2O4
